** sch_path: /workspace/analog/tb/8T_tb.sch
**.subckt 8T_tb vdd vss wl q qb a rbl wbl wblb
*.ipin vdd
*.ipin vss
*.ipin wl
*.opin q
*.opin qb
*.ipin a
*.opin rbl
*.ipin wbl
*.ipin wblb
x1 vdd wbl wblb vss wl a qb q qb rbl q 8T_03v3
**.ends

* expanding   symbol:  analog/designs/8T_03v3.sym # of pins=11
** sym_path: /workspace/analog/designs/8T_03v3.sym
** sch_path: /workspace/analog/designs/8T_03v3.sch
.subckt 8T_03v3 VDD WBL WBLB VSS WL A QIN Q QB RBL QBIN
*.ipin A
*.opin RBL
*.ipin VSS
*.ipin VDD
*.ipin WL
*.ipin WBL
*.ipin WBLB
*.ipin QBIN
*.ipin QIN
*.opin Q
*.opin QB
XM1 net1 Q VSS VSS nfet_03v3 L='L_M1' W='W_M1' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 RBL A net1 VSS nfet_03v3 L='L_M2' W='W_M2' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPD1 QB QBIN VSS VSS nfet_03v3 L='L_PD' W='W_PD' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPU1 QB QBIN VDD VDD pfet_03v3 L='L_PU' W='W_PU' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XAX1 WBLB WL QB VSS nfet_03v3 L='L_AX' W='W_AX' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPU2 Q QIN VDD VDD pfet_03v3 L='L_PU' W='W_PU' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPD2 Q QIN VSS VSS nfet_03v3 L='L_PD' W='W_PD' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XAX2 WBL WL Q VSS nfet_03v3 L='L_AX' W='W_AX' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
